### PR TITLE
Lagrange interpolation

### PR DESCRIPTION
**Pull request by Julek**

### CODE REVIEW

File: CompPoly/Univariate/ToPoly.lean [hunk 1]
```diff
@@ -349,6 +349,64 @@ lemma toPoly_pow [Nontrivial R] [LawfulBEq R] (p : CPolynomial R) (n : ℕ) :
...
+      have := eq_or_ne a i
+      aesop
+    have s_disjoint : Disjoint {i} (s.erase i) := by simp
+    rw [this, Finset.prod_union s_disjoint, Finset.prod_union s_disjoint]
+    simp only [Finset.prod_singleton, toPoly_mul]
+    rw [@ih (s.erase i)]
+    rw [@Finset.card_erase_eq_ite]
+    simp [i_in_s, h]
+
+lemma toPoly_sum.{u} {R : Type*} [BEq R] [Field R] [LawfulBEq R] {ι : Type u} [DecidableEq ι]
```
Comment (alexanderlhicks) [inline CompPoly/Univariate/ToPoly.lean]: You might want to use Finset.induction_on to get a shorter proof:

```
lemma toPoly_sum.{u} {R : Type*} [BEq R] [Field R] [LawfulBEq R] {ι : Type u} [DecidableEq ι]
    {s : Finset ι} {f : ι → CPolynomial R} :
      (∑ j ∈ s, f j).toPoly = ∑ j ∈ s, ((f j).toPoly) := by
  induction s using Finset.induction_on with
     | empty => 
        simp_all only [Finset.sum_empty]
        rfl
     | insert has ih => 
        grind only [= Finset.sum_insert', = toPoly_add]
```
